### PR TITLE
disprove(OEIS): resolve A113019 fixed-point conjecture

### PR DESCRIPTION
**Pull request by KitaKen1**
This PR changes `OeisA113019.conjecture` from `answer(sorry)` to `answer(False)` and adds a kernel-checked Lean proof.

The OEIS comment asks: “n=1 and 32 are fixed points. Are there any others?”
Yes: `387420489 = 9^9` is a third fixed point under the exact current definition, so the proposed classification is false.

The Lean formalization was prepared by [KitaKen1 (Kenta Kitamura)](https://github.com/KitaKen1).
The external proof establishes the exact target theorem:

```lean
theorem OeisA113019Proof.oeis_a113019_conjecture_solved :
    answer(False) ↔
      ∀ n : ℕ, OeisA113019.a n = n → n = 1 ∨ n = 32
```

Proof: https://github.com/KitaKen1/oeis-a113019-counterexample/blob/dc68e0b55c834b24c9e029525deaa562ae144296/lean/OeisA113019FC.lean#L14-L25

Repository: https://github.com/KitaKen1/oeis-a113019-counterexample

Lean4Web: https://live.lean-lang.org/#url=https%3A%2F%2Fraw.githubusercontent.com%2FKitaKen1%2Foeis-a113019-counterexample%2Frefs%2Fheads%2Fmain%2Flean4web%2FOeisA113019Lean4Web.lean

`lake build` succeeds with Lean 4.27.0. `#print axioms` reports only `propext`, `Classical.choice`, and `Quot.sound`; there is no `sorryAx`.

AI Usage Disclosure: This formalization was developed with assistance from OpenAI Codex, using GPT-5.6 sol.

### CODE REVIEW

**Review by mo271 — APPROVED** [review]
Thanks and congrats on finding another fixed point!

potentially one could ask: ist there another one? Are the only finitely many?

**Comment by mo271** [comment]
Ah 9^9 is the last one... 
one could add a proof for that

File: FormalConjectures/OEIS/113019.lean [hunk 1]
```diff
@@ -58,9 +58,20 @@ theorem a_4 : a 4 = 1 := by native_decide
...
+
+Yes: `387420489 = 9 ^ 9` is a third fixed point, so the proposed
+classification is false.
 -/
-@[category research open, AMS 11]
-theorem conjecture : answer(sorry) ↔ ∀ n : ℕ, a n = n → n = 1 ∨ n = 32 := by
-  sorry
+@[category research solved, AMS 11,
+  formal_proof using lean4 at
+    "https://github.com/KitaKen1/oeis-a113019-counterexample/blob/dc68e0b55c834b24c9e029525deaa562ae144296/lean/OeisA113019FC.lean#L14-L25"]
```
Comment (mo271) [inline FormalConjectures/OEIS/113019.lean:67]:
```suggestion
@[category research solved, AMS 11]
```

File: FormalConjectures/OEIS/113019.lean [hunk 2]
```diff
@@ -58,9 +58,20 @@ theorem a_4 : a 4 = 1 := by native_decide
 
 /--
 $n=1$ and $32$ are fixed points. Are there any others?
+
+Yes: `387420489 = 9 ^ 9` is a third fixed point, so the proposed
+classification is false.
```
Comment (mo271) [inline FormalConjectures/OEIS/113019.lean:63]:
```suggestion
Yes: 9^9 = 387420489 is also a fixed point. - [Kenta Kitamura](https://oeis.org/wiki/User:Kenta_Kitamura), Aug 14 2026
```

**Review by mo271 — COMMENTED** [review]
Thanks again! Since we have the complete proof here it is not necessary to have the `formal_proof` link

**Comment by mo271** [comment]
> Ah 9^9 is the last one... one could add a proof for that

Did this here:
https://github.com/google-deepmind/formal-conjectures/pull/4961

**Comment by mo271** [comment]
@KitaKen1 wrote a linter to catch the thing I'm complaining about here automatically: 
#4962

**Comment by mo271** [comment]
@KitaKen1 can you have a look (i already approved this pr, so i might have slipped by..)

**Comment by KitaKen1** [comment]
@mo271 
Thanks — I’ve addressed the review suggestions.

**Review by mo271 — APPROVED** [review]
